US09079865B2
A 50-mL, 3-necked, round-bottomed flask was charged with (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid (0.43 g), 2-(1-methylhydrazinyl)pyridine (0.15 g, 1.0 eq.) in EtOAc (10 mL). T3P (50% in EtOAc; 1.1 g, 1.5 eq.) and DIPEA (0.40 g, 2.5 eq.) were added under nitrogen atmosphere at −60° C. and the progress of the reaction was monitored by TLC (using 10% MeOH:CH2Cl2 as mobile phase and visualization with UV light). The reaction mixture was concentrated under reduced pressure (25° C., 20 mmHg) to afford 0.65 g of crude solid. Purification was performed on Combi-Flash Column chromatography in CH2Cl2 and MeOH (desired compound started eluting at 3.3% MeOH in CH2Cl2). The fractions containing the desired compound were combined and concentrated under reduced pressure (35° C., 20 mm Hg) to afford 90.0 mg (yield: 18%) (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-methyl-N′-(pyridin-2-yl)acrylohydrazide. 1H NMR (400 MHz, DMSO-d6) δ 9.89 (s, 1H), 9.79 (brs, 1H), 8.57-8.62 (d, 2H), 7.92-7.94 (d, J=11.2 Hz, 1H), 7.59-7.64 (m, 1H), 7.19-7.25 (q, 1H), 6.75-6.89 (m, 2H), 5.85-5.88 (d, J=10.8 Hz, 1H), 3.46 (d, 3H); LCMS for C19H15F6N6O [M+H]+ 457.35; found 456.26 (RT 2.52 min, purity: 100.0%).

reactant | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.43 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)O)(F)F | C13H7F6N3O2
reactant | 2-(1-methylhydrazinyl)pyridine | 0.15 g, 1.0 eq. | CN(N)C1=NC=CC=C1 | C6H9N3
reactant | T3P | 1.1 g, 1.5 eq. | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | DIPEA | 0.40 g, 2.5 eq. | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | (Z)-3-(3-(3,5-bis(trifluoromethyl)phenyl)-1H-1,2,4-triazol-1-yl)-N′-methyl-N′-(pyridin-2-yl)acrylohydrazide | 90.0 mg, yield: 18% | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=NN(C=N1)\C=C/C(=O)NN(C1=NC=CC=C1)C)(F)F | C19H14F6N6O
